US09193678B2
Synthesis of Benzophenone Modified Polymer (25)
A solution of polymer in a suitable solvent (nitroethane, dichloromethane, chloroform) was treated with 4-nitro benzoyl chloride (1 eq) and aluminium chloride (1.2 eq). The solution was stirred at room temperature or at 40° C. then quenched with water. The organic layer was collected and washed with 1M HCl and 1M NaOH solutions sequentially. Concentration of the organic layer yielded the product.

reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 4-nitro benzoyl chloride | 1 eq | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | aluminium chloride | 1.2 eq | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
